US08912169B2
Step 4: Synthesis of 2-[4-[tert-butoxycarbonyl-[2-[tert-butoxycarbonyl(2-pyridyl)amino]ethyl]amino]cyclohexyl]acetic acid
To a solution of ethyl 2-[4-[tert-butoxycarbonyl-[2-[tert-butoxycarbonyl(2-pyridyl)amino]ethyl]amino]cyclohexyl]acetate (968 mg, 1.91 mmol) in THF (3 mL); methanol (3 mL) and water (6 mL) was added lithium hydroxide monohydrate (397 mg, 9.7 mmol). The resulting solution was stirred for 2.25 hr, then acidified to pH 3 with 1N HCl. The resulting mixture was extracted with dichloromethane (4 times). The combined organic extract was dried over magnesium sulfate and concentrated. The residue was purified by silica chromatography (10 g silica; eluted with 40-100% ethyl acetate in hexanes) to give the title compound as a 6:1 mixture of trans:cis isomers.

reactant | ethyl 2-[4-[tert-butoxycarbonyl-[2-[tert-butoxycarbonyl(2-pyridyl)amino]ethyl]amino]cyclohexyl]acetate | 1.91 mmol, 968 mg | C(C)(C)(C)OC(=O)N(C1CCC(CC1)CC(=O)OCC)CCN(C1=NC=CC=C1)C(=O)OC(C)(C)C | C27H43N3O6
reactant | methanol | 3 mL | CO | CH4O
reactant | lithium hydroxide monohydrate | 9.7 mmol, 397 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | 2-[4-[tert-butoxycarbonyl-[2-[tert-butoxycarbonyl(2-pyridyl)amino]ethyl]amino]cyclohexyl]acetic acid | C(C)(C)(C)OC(=O)N(C1CCC(CC1)CC(=O)O)CCN(C1=NC=CC=C1)C(=O)OC(C)(C)C | C25H39N3O6
